US07365231B2
2,6-Bis(4-amino-3-hydroxyphenoxy)naphthalene was synthesized in a manner analogous to Example 2 from 2,6-bis(3-hydroxy-4-nitrophenoxy)naphthalene. Yield 85.0%; mp 239˜241° C.; IR (KBr) 3295, 3367, 1499 cm−1; MS (EI) m/z 374 (M+, 100); Elemental Anal. Calcd. for C22H18N2O4: C, 70.59; H, 4.81; N, 7.49. Found: C, 70.51; H, 4.86; N, 7.462.

reactant | 2,6-bis(3-hydroxy-4-nitrophenoxy)naphthalene | OC=1C=C(OC2=CC3=CC=C(C=C3C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C22H14N2O8
reactant | KBr | [K+].[Br-]
product | 2,6-Bis(4-amino-3-hydroxyphenoxy)naphthalene | Yield 85.0% | NC1=C(C=C(OC2=CC3=CC=C(C=C3C=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C22H18N2O4
